US07067517B2
Morpholine-4-carboxylic acid 3-(4-methoxy-phenyl)-pyrazol-1-yl ester
The title compound was prepared from 1-hydroxy-3-(4-methoxyphenyl)pyrazole and 4-morpholine carbonyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (62%, crystals).

reactant | 1-hydroxy-3-(4-methoxyphenyl)pyrazole | ON1N=C(C=C1)C1=CC=C(C=C1)OC | C10H10N2O2
reactant | 4-morpholine carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | Morpholine-4-carboxylic acid 3-(4-methoxy-phenyl)-pyrazol-1-yl ester | COC1=CC=C(C=C1)C1=NN(C=C1)OC(=O)N1CCOCC1 | C15H17N3O4
